US07696195B2
1i) tert.-butyl 5-{(R)-2-carboxy-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate
A solution of 19.2 mg (0.8 mmol) lithium hydroxide hydrate in 10 mL water was added at RT to a solution of 330 mg (0.53 mmol) tert.-butyl 5-{(R)-2-ethoxycarbonyl-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate in 30 mL THF and the reaction mixture was stirred for 30 min at RT. It was evaporated down i.vac., the residue was taken up in 100 mL water, combined with 10% citric acid with stirring, extracted twice with 100 mL DCM and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was reacted further without purification.

reactant | lithium hydroxide hydrate | 0.8 mmol, 19.2 mg | O.[OH-].[Li+]
reactant | tert.-butyl 5-{(R)-2-ethoxycarbonyl-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate | 0.53 mmol, 330 mg | C(C)OC(=O)[C@@H](CC=1C=C2C=NN(C2=C(C1)C)C(=O)OC(C)(C)C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C33H41N5O7
solvent | water | 10 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert.-butyl 5-{(R)-2-carboxy-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate | C(=O)(O)[C@@H](CC=1C=C2C=NN(C2=C(C1)C)C(=O)OC(C)(C)C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C31H37N5O7
